US06218381B1
2-(Chloromethyl)quinoline monohydrochloride (4.06 g) was taken up in water, alkalized with K2CO3 and extracted with DCM. The organic layer was dried (MgSO4), filtered and evaporated, yielding 2-(chloromethyl)quinoline. Sodium hydride (0.7 g) was added at room temperature to a solution of intermediate 8 (6.5 g) in DMF (350 ml) and the mixture was stirred for 30 minutes. 2-(Chloromethyl)quinoline dissolved in DMF was added and the mixture was stirred at 50° C. for 3 hours. The mixture was evaporated, the residue was taken up in water and extracted with DCM. The organic layer was dried (MgSO4), filtered and evaporated. The residue was crystallized from ACN, the precipitate was filtered off, yielding 5.52 g (64%) of 11-[1-[[3,5-dimethoxy-4-(2-quinolinylmethoxy)-phenyl]methyl]-4-piperidinylidene]-6,11-dihydro-5H-imidazo[2,1-b][3]benzazepine (compound 32, mp. 214.8° C.).

reactant | 2-(Chloromethyl)quinoline monohydrochloride | 4.06 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | water | O | H2O
product | 2-(chloromethyl)quinoline | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
